US05112998
In 5 ml of acetone was dissolved 24.3 mg (0.05 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α;6α,7α- diepoxypregn-4-en-3β-yl acetate, followed by addition of 2.5 mg (0.01 mmole) of pyridinium p-toluenesulfonate. The mixture was refluxed for 2 hours. The reaction mixture thus obtained was cooled to room temperature and the solvent was distilled off under reduced pressure. To the residue was added methylene chloride and the mixture was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=1:5, v/v) to recover 9.6 mg of 3β-acetoxy-1α,2α;6α,7α-diepoxypregn-4-ene-20-carbaldehyde (yield: 48%).

reactant | 6α,7α- diepoxypregn-4-en-3β-yl acetate | C(C)(=O)O[C@@H]1C2=C3[C@]4([C@H]([C@H]5[C@@H]6CC[C@H](CC)[C@]6(CC[C@@H]5[C@]3(CC1)C)C)O4)O2 | C23H32O4
reactant | pyridinium p-toluenesulfonate | 0.01 mmole, 2.5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | acetone | 5 ml | CC(=O)C | C3H6O
product | 6α,7α-diepoxypregn-4-ene-20-carbaldehyde | yield: 48% | O1[C@@]23[C@H]([C@H]4[C@@H]5CC[C@H](C(C)C=O)[C@]5(CC[C@@H]4[C@]4(CCCC1=C24)C)C)O3 | C22H30O3
